US07452893B2
Step 2: Benzyl [cis-3-(hydroxymethyl)cyclobutyl]carbamate
A mixture of 6.0 g of {cis-3-[(benzyloxy)methyl]cyclobutyl}amine, 2 g of 20% palladium hydroxide on carbon, 200 mL of methanol and 20 mL of acetic acid was stirred at room temperature under an atmosphere of hydrogen (balloon) for 24 h. The mixture was filtered to remove catalyst and concentrated under reduced pressure. Further drying under vacuum gave 6.5 g of the acetate salt of (cis-3-aminocyclobutyl)methanol as a thick resin. A mixture of 6.5 g of the acetate salt of (cis-3-aminocyclobutyl)methanol, 8 g of benzyl succinimidyl carbonate, 150 mL of anhydrous acetonitrile 15 mL of 2-propanol and 20 mL of triethylamine was stirred overnight at room temperature. The mixture was concentrated under reduced pressure and partitioned between 2×150 mL of ethyl acetate and 50 mL of water. The combined extracts were dried over magnesium sulfate and concentrated to dryness. Chromatography using a gradient of 25% to 75% ethyl acetate in hexane gave 10.8 g of product as a crystalline solid: MS (m+1)=236.3; 1H NMR (400 MHz, CDCl3) 7.37 (m, 5H), 5.18 (s, 2H), 4.92 (br s, 1H), 4.1 (m, 1H), 3.58 (s, 2H), 2.42 (dd, 2H), 2.1 (m, 1H), 1.7 (dd, 2H).

reactant | (cis-3-aminocyclobutyl)methanol | N[C@H]1C[C@H](C1)CO | C5H11NO
reactant | benzyl succinimidyl carbonate | 8 g | C(OCC1=CC=CC=C1)(ON1C(CCC1=O)=O)=O | C12H11NO5
reactant | acetonitrile | 150 mL | C(C)#N | C2H3N
reactant | 2-propanol | CC(C)O | C3H8O
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
product | Benzyl [cis-3-(hydroxymethyl)cyclobutyl]carbamate | 10.8 g | OC[C@H]1C[C@H](C1)NC(OCC1=CC=CC=C1)=O | C13H17NO3
